US06291455B1
A mixture of 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride (450 mg, 1.6 mmol), (prepared as described for the starting material in Example 1), and 3-hydroxy4-methylaniline (280 mg, 2.27 mmol) in isopropanol (20 ml) was heated at reflux for 30 minutes. The solvent was removed by evaporation and the residue was triturated with isopropanol. The resulting solid was collected by filtration, washed with isopropanol and dried under vacuum to give 4-(3-hydroxy4-methylanilino)-7-(2-methoxyethoxy)quinazoline hydrochloride (428 mg, 74%).

reactant | 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride | 1.6 mmol, 450 mg | Cl.ClC1=NC=NC2=CC(=CC=C12)OCCOC
reactant | 3-hydroxy4-methylaniline | 2.27 mmol, 280 mg | OC=1C=C(N)C=CC1C | C7H9NO
solvent | isopropanol | 20 ml | C(C)(C)O | C3H8O
product | 4-(3-hydroxy4-methylanilino)-7-(2-methoxyethoxy)quinazoline hydrochloride | 428 mg, 74% | Cl.OC=1C=C(NC2=NC=NC3=CC(=CC=C23)OCCOC)C=CC1C | InChI=1S/C18H19N3O3.ClH/c1-12-3-4-13(9-17(12)22)21-18-15-6-5-14(24-8-7-23-2)10-16(15)19-11-20-18;/h3-6,9-11,22H,7-8H2,1-2H3,(H,19,20,21);1H
